US08044213B2
To a mixture of 7.53 g (34 mmole) of methanesulfonic acid 4-fluoro-2-hydroxymethyl-phenyl ester and 60 mL of concentrated sulfuric acid at 0 degrees was added dropwise, a cold mixture of 2.5 mL of concentrated nitric acid and 3 mL of concentrated sulfuric acid. The mixture was poured on ice and extracted three times with 50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with diethyl ether to give 3.5 g of methanesulfonic acid 4-fluoro-5-nitro-2-sulfooxymethyl-phenyl ester as a white solid. The white solid was heated to reflux for 1 hour with 100 mL of methanol, 2 mL of trimethylorthoformate and 0.10 g of p-toluenesulfonic acid monohydrate. The mixture was neutralized by addition of saturated sodium bicarbonate solution and then concentrated under reduced pressure. The residue was partitioned between 200 mL of ethyl acetate and 100 mL of saturated sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 2.6 g of methanesulfonic acid 4-fluoro-2-hydroxymethyl-5-nitro-phenyl ester as a white solid.

reactant | methanesulfonic acid 4-fluoro-2-hydroxymethyl-phenyl ester | 34 mmole, 7.53 g | FC1=CC(=C(C=C1)OS(=O)(=O)C)CO | C8H9FO4S
reactant | nitric acid | 2.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 60 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | methanesulfonic acid 4-fluoro-5-nitro-2-sulfooxymethyl-phenyl ester | 3.5 g | FC1=CC(=C(C=C1[N+](=O)[O-])OS(=O)(=O)C)COS(=O)(=O)O | C8H8FNO9S2
